US07323475B2
b. [5-(4-Fluoro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid methyl ester
A mixture of 5-(4-fluoro-phenoxy)-isoindole-1,3-dione (42.9 g, 167 mmol), Bromo-acetic acid methyl ester (21.1 ml, 223 mmol), K2CO3 (62.3 g, 446 mmol) and Et2CO (700 ml) was refluxed with stirring for 16 h before the mixture was concentrated in vacuo. To the residue was added water (150 ml) and the resulting slurry was extracted with EtOAc (1×750 ml, 1×250 ml). The combined organic phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a tan solid (49.7 g); 1H NMR (CDCl3) δ=7.80 (d, 1H), 7.01 to 7.30 (m, 6H), 4.41 (s, 2H), 3.76 (s, 3H).

reactant | 5-(4-fluoro-phenoxy)-isoindole-1,3-dione | 167 mmol, 42.9 g | FC1=CC=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C14H8FNO3
reactant | Bromo-acetic acid methyl ester | 223 mmol, 21.1 ml | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 446 mmol, 62.3 g | C(=O)([O-])[O-].[K+].[K+]
product | [5-(4-Fluoro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid methyl ester | 49.7 g | COC(CN1C(C2=CC=C(C=C2C1=O)OC1=CC=C(C=C1)F)=O)=O | C17H12FNO5
